Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
absorbable surgical gauze
 
Attending: ___.
 
Chief Complaint:
occluded RLE graft
 
Major Surgical or Invasive Procedure:
PROCEDURES:
1. Cutdown over the right femoral popliteal graft in the
    upper thigh.
2. Graft thrombectomy with revision
3. Right lower extremity angiogram.
4. Over the wire tibial embolectomy.
5. Placement of a 6 x 10 cm Viabahn stent across the distal
    anastomosis of the femoral popliteal bypass graft.

Debridement of right plantal ulcer and right heel ulcer, integra 
graft placement x 2

 
History of Present Illness:
___ h/o CAD s/p multiple MI and PCI/AICD, CHF and CKD with
PSH pertinent for aorto-Bifem BPG, left Fem-Pop Bypass (___) &
redo fem-AKpop bypass with PTFE (___), L TMA and Right Fem-Pop
Bypass with PTFE  (___) for R SFA occlusion. Since then, she 
has
had several readmissions for CHF exacerbation, ___ on CKD & RLE
cellulitis most recently from ___. Vascular Surgery was
consulted at the time and it was thought that there was no clear
evidence of worsening infection and so she was treated for 
likely
venous stasis. She was seen in ___ clinic for
management of a first metatarsal head ulcer which was noted not
to have any infection at the time. However, she was noted to 
have
some erythema around her right thigh bypass graft site so she 
was
started on PO antibiotics with instructions to followup with
Vascular Surgery within 1 week. At her clinic visit on ___,
she underwent a RLE duplex which demonstrated occlusion of her
bypass graft.
 
Past Medical History:
- CAD with the following interventions:  
 A. ___ - 2.5 x 18 Cypher to LAD  
 B. ___ - inferior STEMI with overlapping Endeavor stents to  

 the distal RCA  
 C. ___ - ISR RCA stent status post POBA  
 D. ___ - Progression of left main disease resulting in CABG  

 (free LIMA to LAD because of clotted off left subclavian stent, 
 
 SVG to RCA, SVG to OM). LIMA and SVG to RCA are known to be  
 occluded with SVG to OM patent (___).  
 E. ___ - Admission with congestive heart failure and non-ST  

 elevation MI in ___, transferred to ___. Angiography  
 showed 90% in-stent restenosis distal RCA stent, status post  
 2.75x20mm PROMUS DES.  
 F. There is residual 40% of LMCA and a tighter distal LAD  
 stenosis in a small vessel.  
 - Ischemic Cardiomyopathy (EF ___, last ECHO ___ CI 2.8) 
 
 - ICD for primary prevention  
 - Peripheral arterial disease (PAD) s/p multiple surgeries, s/p 
 
 L TMA for ulcer disease ___ (c/b post-operative hypotension) 
 
 - Osteomyelitis of Right great toe. s/p amputation in ___,  
 required long course of IV antibiotics.  
 - DM2 with last A1c 7.9% ___, macroalbuminuria, diabetic  
 neuropathy  
 - HLD  
 - Tobacco use  
 - Sleep Apnea  
 - History of polysubstance abuse  
 - hepatitis C  
 - COPD  
 
 PAST SURGICAL HISTORY  
 - Right Fem-Pop PTFE ___  
 - L TMA ___  
 - Redo left femoral to above knee popliteal bypass graft with 6 
 
 mm ringed PTFE ___ ___  
 - Debridement left ___ toe, including partial metatarsal head  
 resection ___ ___  
 - left first ray amputation ___ ___  
 - aorto-bifem w dacron & L fem-pop bypass w PTFE ___  
 ___  
 - Diagnostic ___ angiogram ___ ___  
 - L CFA endarterectomy, bovine pericardial patch angioplasty  
 from  
 mid CFA into mid profunda femoral artery ___ ___  
 - Aortogram bilateral lower extremity runoff ___  
 ___  
 - Irrigation and closure of left neck wound ___ ___  

 - Incision and drainage of left neck wound ___ ___  
 - Left common carotid artery to left subclavian artery bypass  
 with 6-mm PTFE graft ___ ___  
 - CABG x 3vessels, Mitral valve repair, closure of patent  
 foramen  
 ovale ___ ___  
 
Social History:
___
Family History:
 CAD/MI, DM, cancer: esophageal, brain, lung  
No family history of breast or lung cancer, melanoma or 
lymphoma.
 
Physical Exam:
Vitals: 97.6 67 116/48 16 97% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding
DRE: Deferred
Ext: Left TMA site c/d/I. Right foot wrapped in clean gauze, 
right heel has small debridement site with integra graft C/D/I. 
Right planter ulcer wrapped in clean gauze, debridement site has 
integra graft intact; no expressable purulence or foul odor.
Pulses: R: p/d/d/d; L: p/d/p/d
 
Pertinent Results:
Right foot x-ray ___
FINDINGS:  
  
Soft tissue ulceration is seen at the plantar foot underlying 
the level of the 
metatarsal-phalangeal joints.  Subtle lucency involving the base 
of the fifth 
digit proximal phalanx is of indeterminate age and underlying 
osteomyelitis at 
this site is not excluded.  Correlate with clinical concern at 
this location.  
No evidence of cortical destruction is seen elsewhere.  No acute 
fracture 
dislocation is seen.  There is a small plantar calcaneal spur.  
Extensive 
vascular calcifications are seen. 

___ 07:30AM BLOOD WBC-13.7* RBC-2.89* Hgb-7.5* Hct-24.3* 
MCV-84 MCH-26.0 MCHC-30.9* RDW-20.7* RDWSD-60.4* Plt ___
___ 07:48AM BLOOD Neuts-75.5* Lymphs-9.6* Monos-11.7 
Eos-0.7* Baso-0.5 NRBC-0.2* Im ___ AbsNeut-7.35*# 
AbsLymp-0.93* AbsMono-1.14* AbsEos-0.07 AbsBaso-0.05
___ 07:30AM BLOOD Glucose-134* UreaN-46* Creat-2.1* Na-135 
K-3.6 Cl-97 HCO3-23 AnGap-19
___ 07:30AM BLOOD ALT-52* AST-89* AlkPhos-420* TotBili-1.0
___ 07:30AM BLOOD Calcium-8.2* Phos-4.8* Mg-1.6
___ 07:30AM BLOOD CRP-136.2*
 
Brief Hospital Course:
On ___ the patient was seen and evaluated by the vascular 
surgery service, and admitted to the floor under the care of the 
vascular surgery team.  There was strong concern for an occluded 
graft in the right lower extremity.

On ___ a chest x-ray was obtained, showing mild to moderate 
pulmonary edema, cardiomegaly, thus cardiology was consulted.  
Their team recommended diuresis, and Lasix IV was initiated.  
The patient was also started on a heparin drip for 
anticoagulation.

From ___ to ___, she was kept on a heparin drip. There 
were no acute events at this time.  

On ___, the patient was consented for thrombectomy.  She 
went to the operating room on ___, where she underwent right 
fem-pop thrombectomy/embolectomy, with Viabahn placement. 
Estimated blood loss during the case was 300cc.  
Post-operatively she was hypotensive in the PACU and put on a 
neo drip.  A hematocrit in the PACU was found to be 24.9.  She 
was put on a dilaudid PCA by chronic pain.  By 2100 hours she 
did not require the neo drip, and continued to have dopplerable 
signals.  

On ___ the patient was found to have a hematocrit of 21.2 
and given 1 unit of pRBC.  She had bilateral crackles and an O2 
requirement of 2L nasal cannula.  To treat her acute on chronic 
systolic CHF, cardiology recommended Lasix 40mg IV x 2.  She 
continued to have dopplerable signals at this time. Pain control 
was an issue and the chronic pain service made various changes 
to her pain regimen.

On ___ her diuresis continued in order to treat her acute on 
chronic systolic CHF.  She was 2.4L net negative on ___ and 
at this time her foley and arterial line were removed. 

On ___ her cultures grew MSSA, and ID recommended nafcillin. 
 Cardiology recommended continuing her torsemide diuresis, with 
this dose being 40mg.

From ___ to ___, the patient's creatinine rose from 1.6 to 
2.3.  Her diuretics were held, renally metabolized medications 
were decreased, and due to increased pain secondary to a 
decreased dose of gabapentin, chronic pain service recommended 
starting tizanidine.  This medication was of great utility in 
relieving the patients pain.

On ___ she went to the operating room with podiatry, who 
debrided both the heel ulcer and the ulcer on the plantar aspect 
of her right foot.  Integra grafts were placed over both sites. 
Her creatinine began to downtrend, so cardiology recommended 
torsemide 30mg.  Her Coumadin was restarted on ___, and the 
heparin drip was continued until her INR was therapeutic.

On ___ Infectious Disease was consulted for a potential graft 
infection. In the afternoon the patient reported some left 
shoulder pain with movement.  An EKG showed no abnormal 
electrical activity and there was no concern for a cardiac 
event.  

On ___, per ID recs her oral Levoquin was discontinued and IV 
Ancef initiated.   Her ___ improved (1.7->1.6) and her Coumadin 
was continued.  Her INR was 2.2.

On ___ her INR was 3.1, thus her heparin drip was 
discontinued.  

On ___, erythema and induration on her right thigh incision 
was noted on morning rounds.  There was a small amount of 
discharge that had a purulent appearance, and the incision was 
opened at the bedside with cultures sent.  The wound was packed, 
and the patient agreed to having a PICC line placed.  Of note, 
her weight on this day was 6.7 kg greater than when she was 
admitted, and diuresis continued.  

On ___ the PICC line that she agreed to the previous day was 
placed.  

On ___ there was no growth to date on the cultures taken 
___. Infectious Disease recommended discharge on cefazolin 2g 
q8hr and rifampin 300mg q8hr.  She will follow up in clinic with 
vascular surgery on ___ with a non-contrast CT of abdomen 
and pelvis and lower extremities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Methadone (Concentrated Oral Solution) 10 mg/1 mL 45 mg PO 
DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Torsemide 60 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Naloxone 4 mg PO PRN overdose 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. Prochlorperazine 5 mg PO Q6H:PRN Nausea 
11. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
12. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Severe 
13. Warfarin 1 mg PO 4X/WEEK (___) 
14. Warfarin 2 mg PO 3X/WEEK (___) 
15. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
16. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
17. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN rash 
18. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Bisacodyl ___AILY:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally once a day Disp 
#*30 Suppository Refills:*0 
2.  CeFAZolin 2 g IV Q8H 
RX *cefazolin in dextrose (iso-os) 2 gram/50 mL 2 gram IV every 
eight (8) hours Disp #*90 Intravenous Bag Refills:*2 
3.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0 
4.  Neomycin-Polymyxin-Bacitracin 1 Appl TP QID  
5.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every three (3) hours 
Disp #*120 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0 
7.  Rifampin 300 mg PO Q8H 
RX *rifampin 300 mg 1 capsule(s) by mouth every eight (8) hours 
Disp #*60 Capsule Refills:*2 
8.  Senna 8.6 mg PO DAILY:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*2 
9.  Tizanidine 1 mg PO QAM:PRN pain 
RX *tizanidine 2 mg 0.5 -1 tablet(s) by mouth qAM Disp #*40 
Tablet Refills:*0 
10.  Tizanidine 2 mg PO QPM:PRN pain, muscle spasm 
RX *tizanidine 2 mg 1 - 2 tablet(s) by mouth qPM Disp #*60 
Tablet Refills:*0 
11.  Glargine 32 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
12.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
13.  Atorvastatin 80 mg PO DAILY  
14.  Clopidogrel 75 mg PO DAILY  
15.  Gabapentin 300 mg PO TID  
16.  Methadone (Concentrated Oral Solution) 10 mg/1 mL 45 mg PO 
DAILY  
17.  Naloxone 4 mg PO PRN overdose  
18.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
19.  Pantoprazole 40 mg PO Q24H  
20.  Prochlorperazine 5 mg PO Q6H:PRN Nausea  
21.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
22.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN rash  
23.  Vitamin D 1000 UNIT PO DAILY  
24.  Warfarin 2 mg PO 3X/WEEK (___)  
25.  Warfarin 1 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Thrombosed right fem-pop bypass
Peripheral vascular disease
Ischemic cardiomyopathy (EF 35%), AICD
Acute kidney injury
Nonhealing RLE ulcer
Chronic Pain
Hypertension
Diabetes Mellitus Type 2
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you here at ___. You were 
admitted for nonhealing RLE ulcer and thrombosed RLE bypass 
graft. You were placed on a heparin gtt for anticoagulation, and 
then underwent a thrombectomy of the graft. You were followed by 
Cardiology service for fluid balance optimization and Chronic 
pain service. You were followed by Podiatry, who later performed 
debridements of the ulcers on the right heel and right plantar 
aspects of the right foot.  

You have now recovered fully and are ready for discharge to 
___ and nursing. Cardiology has recommened: Torsemide 
dose is now 30mg once per day, Weigh yourself every morning, 
call MD if weight goes up more than 3 lbs. Please follow the 
below instructions for a safe and speedy recovery. 

Lower Extremity Bypass Thrombectomy Discharge Instructions

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
_x0095_ You should get up out of bed every day and gradually increase 
your activity each day 
_x0095_ You are not to put any weight on your right foot.  The integra 
grafts used on both ulcers are sensitive.  
_x0095_ Increase your activities as you can tolerate- do not do too 
much right away! Listen to your specialists at rehab.

2. It is normal to have swelling of the leg you were operated 
on:
_x0095_ Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
_x0095_ Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
_x0095_ You will probably lose your taste for food and lose some 
weight 
_x0095_ Eat small frequent meals
_x0095_ It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
_x0095_ To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
_x0095_ Take aspirin as instructed 
_x0095_ Follow your discharge medication instructions, including the 
antibiotic that was prescribed for you.

ACTIVITIES:
_x0095_ No driving until post-op visit and you are no longer taking 
pain medications
_x0095_ Unless you were told not to bear any weight on operative foot: 

_x0095_ You should get up every day, get dressed and walk
_x0095_ You should gradually increase your activity
_x0095_ You may up and down stairs, go outside and/or ride in a car
_x0095_ Increase your activities as you can tolerate- do not do too 
much right away!
_x0095_ No lifting, pushing or pulling (greater than 5 pounds) until 
your post op visit 
_x0095_ Do not shower until cleared by podiatry
_x0095_ Your dressing on the right foot should be changed every other 
day.

CALL THE OFFICE FOR: ___
_x0095_ Redness that extends away from your incision
_x0095_ A sudden increase in pain that is not controlled with pain 
medication
_x0095_ A sudden change in the ability to move or use your leg or the 
ability to feel your leg
_x0095_ Temperature greater than 100.5F for 24 hours
_x0095_ Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___